US07101903B2
6-(Benzyloxy)-9-(4-tert-butylbenzyl)-1,9-dihydropyrano[3,4-b]indole-3,4-dione
The title compound was prepared from [2-[(acetyloxy)methyl]-5-(benzyloxy)-1-(4-tert-butylbenzyl)-1H-indol-3-yl](oxo)acetic acid and aqueous potassium hydroxide in substantially the same manner, as described in step 6 of Example 1, followed by the treatment with aqueous HCl, as described in step 7 of Example 1. The product was obtained as an off-white solid; mp: 233–234° C. Mass spectrum (ESI, [M+H]+) m/z 454. 1H NMR (400 MHz, DMSO-d6) δ 7.59–7.56 (m, 2H), 7.47 (d, 1H, J=7.33 Hz), 7.39 (t, 2H, J=7.33 Hz), 7.35–7.30 (m, 3H), 7.15 (d, 2H, J=8.40 Hz), 7.07 (dd, 1H, J=9.05 and 2.45 Hz), 5.87 (s, 2H), 5.42 (s, 2H), 5.16 (s, 2H), and 1.22 ppm (s, 9H).

reactant | [2-[(acetyloxy)methyl]-5-(benzyloxy)-1-(4-tert-butylbenzyl)-1H-indol-3-yl](oxo)acetic acid | C(C)(=O)OCC=1N(C2=CC=C(C=C2C1C(C(=O)O)=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C(C)(C)C | C31H31NO6
reactant | potassium hydroxide | [OH-].[K+]
reactant | HCl | Cl | ClH
product | 6-(Benzyloxy)-9-(4-tert-butylbenzyl)-1,9-dihydropyrano[3,4-b]indole-3,4-dione | C(C1=CC=CC=C1)OC=1C=C2C3=C(N(C2=CC1)CC1=CC=C(C=C1)C(C)(C)C)COC(C3=O)=O | C29H27NO4
